US04755323
One cools 10 g. acetophenone to 2° and mixes, while stirring, below 20° with 10.4 g. SnCl4. With stirring, one adds dropwise thereto at 20°, within 1 hour, 13.4 g. p-methylstyrene oxide, warms the mixture to 28°, works up as usual with diethyl ether/10% aqueous sodium hydroxide solution and obtains trans-2,5-di-p-tolyl-1,4-dioxane, m.p. 200°, C 110°, Rf 0.45 (silica gel/toluene).

reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | SnCl4 | Cl[Sn](Cl)(Cl)Cl
reactant | p-methylstyrene oxide | CC1=CC=C(C2CO2)C=C1 | C9H10O
reactant | diethyl ether | C(C)OCC | C4H10O
product | trans-2,5-di-p-tolyl-1,4-dioxane | C1(=CC=C(C=C1)[C@@H]1OC[C@H](OC1)C1=CC=C(C=C1)C)C | C18H20O2
